US07442696B2
This compound was prepared using General Method 1 (EXAMPLE 1) from 2-amino-6-chlorobenzaldehyde (45 mg, 0.29 mmol) and methylmagnesium bromide (3 M in ether, 0.24 mL) to afford (±)-(2-amino-6-chlorophenyl)ethanol after flash chromatography (4:1 hexanes:ethyl acetate).

reactant | 2-amino-6-chlorobenzaldehyde | 0.29 mmol, 45 mg | NC1=C(C=O)C(=CC=C1)Cl | C7H6ClNO
reactant | methylmagnesium bromide | 3 M, 0.24 mL | C[Mg]Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-(2-amino-6-chlorophenyl)ethanol | NC1=C(C(=CC=C1)Cl)C(C)O | C8H10ClNO
